US04476129
A Grignard solution was prepared by adding 11.4 g (0.08 mol) methyl iodide in 100 ml of anhydrous diethyl ether under a nitrogen atmosphere to 2 g (0.08 at) of magnesium, after which the reaction mixture was refluxed for one hour. At the reflux temperature 100 ml of anhydrous tetrahydrofuran and a solution of 4.5 g (0,01 mol) of 3-[4-[2-[bis(4-fluorophenyl)methoxy]ethyl]-1-piperazinyl]-1-phenyl-1-propanone in 100 ml of anhydrous tetrahydrofuran were successively added dropwise. After two hours refluxing, the reaction mixture was poured out into a mixture of an ammonium chloride solution and ice, after which the mixture was saturated with sodium chloride. The organic layer was separated off, washed with salt solution and the liquid was evaporated. The residue was taken up in diethyl ether, and the solution was carefully acidified with an ethereal solution of hydrogen chloride to pH=3. The precipitate obtained of 4-[2-[bis(4-fluorophenyl)methoxy]ethyl)]-α-phenyl-α-methyl-1-piperazinepropanol dihydrochloride was filtered off, dried and crystalized once from a mixture of methanol and diethyl ether.

reactant | methyl iodide | 0.08 mol, 11.4 g | CI | CH3I
reactant | magnesium | 2 g | [Mg] | Mg
reactant | 3-[4-[2-[bis(4-fluorophenyl)methoxy]ethyl]-1-piperazinyl]-1-phenyl-1-propanone | 0,01 mol, 4.5 g | FC1=CC=C(C=C1)C(OCCN1CCN(CC1)CCC(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C28H30F2N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | α-phenyl-α-methyl-1-piperazinepropanol dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(CCN1CCNCC1)(O)C | InChI=1S/C14H22N2O.2ClH/c1-14(17,13-5-3-2-4-6-13)7-10-16-11-8-15-9-12-16;;/h2-6,15,17H,7-12H2,1H3;2*1H
